US08648066B2
To a solution of 1,1-dimethylethyl 7-(5,6-diaminopyridin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (0.51 g, 1.4 mmol) in acetic acid (5 mL) was added 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea (0.3 g, 1.4 mmol). The reaction mixture was heated 65° C. for 18 h and then concentrated. The resulting residue was suspended in water and basified with portion wise addition of solid sodium bicarbonate. After complete neutralization of the aqueous mixture the insoluble solid was collected by filtration and washed with water then 50% ethyl acetate in hexanes and the filter cake dried to give 1,1-dimethylethyl 7-(2-{[(methyloxy)carbonyl]amino}-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (0.52 g, 83% yield), MS (EI) for C22H25N5O5: 440 (MH+).

reactant | 1,1-dimethylethyl 7-(5,6-diaminopyridin-3-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.4 mmol, 0.51 g | NC=1C=C(C=NC1N)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C19H24N4O3
reactant | 1,3-bis(methoxycarbonyl)-2-methyl-2-thiopseudourea | 1.4 mmol, 0.3 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 1,1-dimethylethyl 7-(2-{[(methyloxy)carbonyl]amino}-1H-imidazo[4,5-b]pyridin-6-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.52 g, 83% yield | COC(=O)NC=1NC=2C(=NC=C(C2)C=2C=CC3=C(CN(CCO3)C(=O)OC(C)(C)C)C2)N1 | C22H25N5O5
